2153-04-29 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2153-4-28**] 06:00 PM
   Overnight Events:
   - Dobhoff not working, likely needs to be replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-29**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-4-28**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-29**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 96 (70 - 115) bpm
   BP: 108/46(63) {98/35(56) - 134/85(88)} mmHg
   RR: 24 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 70.1 kg
             Total In:
                                                                  1,380 mL
                                                                    169 mL
   PO:
             TF:
   IVF:
                                                                    260 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,453 mL
                                                                    240 mL
   Urine:
                                                                    303 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -73 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GENERAL: 80 y/o F in NAD. Oriented to person only. Somnolent but
   responds to verbal stimuli.
   HEENT: NCAT. PERRL.
   NECK: No JVD appreciated.
   CARDIAC: RRR; No m/r/g appreciated.
   LUNGS: Lungs CTA anteriorly.
   ABDOMEN: Soft, ND. Some slight diffuse TTP; no rebound or guarding. BS
   present. Bag attached to lower central abdomen, collecting feculent
   drainage.
   EXTREMITIES: Pitting edema in all 4 extremities. Legs in waffle boots
   bilaterally.
   Labs / Radiology
   540 K/uL
   7.6 g/dL
   85 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.5 mEq/L
   15 mg/dL
   110 mEq/L
   144 mEq/L
   24.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2153-4-29**]  03:56 AM
   WBC
   6.0
   Hct
   24.3
   Plt
   540
   Cr
   0.7
   Glucose
   85
   Other labs: PT / PTT / INR:12.3/27.0/1.0, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL
   Assessment and Plan
   80F with DM, HTN, dementia, diverticulosis/GIB, intially admitted to
   SICU with abdominal abscess thought to be [**3-6**] perforated diverticulum,
   now s/p I&D with post-op course c/b respiratory failure/intubation [**3-6**]
   CHF vs. aspiration PNA. [**Hospital 14204**] transferred to the CCU with tachy-brady
   syndrome, awaiting PPM placement on Monday.
   .
   # Tachy-Brady Syndrome: The patient has had labile heart rates while on
   the medicine floor. Pt with episodes of tachycardia (sinus tach vs.
   a-tach recently, for which she has been on metoprolol). However,
   recently, she has also been experiencing pauses on tele. This morning,
   her beta blocker had been on hold for ~18 hours, when she developed
   longer pauses on telemetry, the longest of which was 4.5 seconds. After
   a family meeting, it was decided that the patient would be full code
   and would undergo PPM placement. She is being transferred to the CCU
   for monitoring until her PPM is placed.
   - PM placement on Monday
   - appreciate EP recs
   - pacer pads on patient
   - atropine at bedside
   - continue telemetry
   - monitor for signs of hypoperfusion (hypotension, decreased UOP) if pt
   develops bradycardia
   - holding metoprolol
   .
   # Respiratory Failure: Pt is s/p extubation on [**4-20**]. Her respiratory
   failure was thought to be [**3-6**] CHF versus aspiration PNA. Of note, no
   mention of PNA on recent CXR and pt has had no positive blood cx (no
   sputum cx sent). She does has bilateral pleural effusions noted on
   chest x-ray. Respiratory status improved, pt sat'ing 100% on RA at this
   time. Pt with peripheral edema on exam.
   - continue vanc/zosyn
   - continue ipratropium nebs
   - continue lasix 40 mg IV daily
   - continue to monitor respiratory status
   - stricts I/O's
   - agree with primary team to hold off on tapping pleural effusions at
   this time
   .
   # Abdominal Abscess: S/p drainage. On vanc/zosyn. Recent CT scan
   showing resolution of fluid collections, with only a small amount of
   free fluid in the pelvis. Colocutaneous fistula draining feculant fluid
   on lower abdomen; however, pt's nutritional status to poor to fix this
   at this point.
   - continue vanc/zosyn
   - continue to monitor fever curve
   - continue to monitor abdominal exam
   .
   # Diffuse Edema: Likely related to poor nutritional status, with
   albumin of 1.8.
   - continue tube feeds
   - appreciate nutrition recs
   - continue lasix, as above
   .
   # Altered Mental Status: Pt with dementia. Not clear what her baseline
   is, however. Currently, she is somnolent but responds to verbal
   stimuli.
   - restart aricept 5 mg
   - continue to monitor mental status
   - touch base with family re: baseline mental status
   - reorientation, maintain sleep/wake cycle
   .
   # HTN/CHF: Normotensive on exam. Peripheral edema present; but seems
   that it may be more related to poor nutritional state.
   - restarting valsartan 80 mg, simvastatin 20 mg, aspirin 81 mg
   - continue to monitor blood pressure and fluid status
   .
   # DM: On ISS. Continue to monitor blood glucose.
   .
   # Elevated Alk Phos: Improving. ?related to recent intraabdominal
   infection. Continue to trend.
   .
   # Anemia: H/o GIB. Hct has been stable. Continue to trend. Restart PPI.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2153-4-28**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2153-04-30 07:23:00 Physician Resident Progress Note
TITLE:  PHYSICIAN INTERN PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   - NG tube placed
   - speech/swallow consulted
   - d/c'ed donepezil
   - Spoke with [**Name (NI) **] [**Name (NI) 14244**], friend and [**Name2 (NI) 14245**] of patient. Contact
   information for [**Doctor Last Name **] is ([**Telephone/Fax (1) 14246**] (home), ([**Telephone/Fax (1) 14247**] (cell). [**First Name8 (NamePattern2) 54**]
   [**Doctor Last Name **], patient has had poor appetite x 6 months, during which time she
   has also had bleeding from a presumptive intestinal source. [**Doctor Last Name **]
   attributes the patient's poor appetite, worsening functional status to
   physical illness, although she also notes that the patient is A+Ox1.
   [**Doctor Last Name **] states that the patient's son and guardian [**Name (NI) 129**], who was recently
   deployed to [**Country 3026**], transferred the guardianship to his boss [**Name (NI) 1053**]
   [**Name (NI) 14248**] ([**Telephone/Fax (1) 14249**]. Will need to investigate this further.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-29**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-30**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-29**] 08:00 AM
   Lansoprazole (Prevacid) - [**2153-4-29**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-30**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 109 (75 - 119) bpm
   BP: 132/69(83) {96/45(58) - 140/77(90)} mmHg
   RR: 33 (20 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.9 kg (admission): 70.1 kg
             Total In:
                                                                  1,165 mL
                                                                    606 mL
   PO:
             TF:
                                                                    175 mL
                                                                    233 mL
   IVF:
                                                                    840 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    605 mL
   Urine:
                                                                  2,735 mL
                                                                    405 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,675 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   GENERAL: 80 y/o F in NAD. Oriented to person only.
   HEENT: NCAT.
   NECK: No JVD appreciated.
   CARDIAC: RRR; No m/r/g appreciated.
   LUNGS: Lungs CTA anteriorly, except for some slight crackles at the
   left base.
   ABDOMEN: Soft, NT/ND. BS present. Bag attached to lower central
   abdomen, collecting feculent drainage.
   EXTREMITIES: Pitting edema in all 4 extremities.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  No rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   584 K/uL
   8.0 g/dL
   134 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   13 mg/dL
   111 mEq/L
   143 mEq/L
   26.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2153-4-29**]  03:56 AM
                             [**2153-4-30**]  05:12 AM
   WBC
   6.0
   7.0
   Hct
   24.3
   26.3
   Plt
   540
   584
   Cr
   0.7
   0.7
   Glucose
   85
   134
   Other labs: PT / PTT / INR:12.1/24.6/1.0, Ca++:7.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   80F with DM, HTN, dementia, diverticulosis/GIB, intially admitted to
   SICU with abdominal abscess thought to be [**3-6**] perforated diverticulum,
   now s/p I&D with post-op course c/b respiratory failure/intubation [**3-6**]
   CHF vs. aspiration PNA. [**Hospital 14204**] transferred to the CCU with tachy-brady
   syndrome, awaiting PPM placement on Monday.
   .
   # Tachy-Brady Syndrome: The patient had labile heart rates while on the
   medicine floor. Pt with episodes of tachycardia (sinus tach vs. a-tach
   recently, for which she has been on metoprolol). However, recently, she
   has also been experiencing pauses on tele. Her beta blocker had been on
   hold for ~18 hours, when she developed longer pauses on telemetry, the
   longest of which was 4.5 seconds. After a family meeting, it was
   decided that the patient would be full code and would undergo PPM
   placement. She was transferred to the CCU for monitoring. However, on
   further assessment, the patient
s functional status was noted to be
   quite poor, and she may not be suitable for PM placement.  Overnight
   her heart rate has been tachycardi in 120s with no pauses.
   - need to hold another family meeting to further address goals of care,
   but complicated picture involving HCP and guardianship and so
   requesting social work for help in figuring this out
   - Will attempt to have family meeting this week to discuss option of PM
   placement
   - pacer pads on patient
   - atropine at bedside
   - continue telemetry
   - monitor for signs of hypoperfusion (hypotension, decreased UOP) if pt
   develops bradycardia
   - holding metoprolol as would prefer her to be tachycardic (currently
   assymptomatic from this) instead of bradycardic
   .
   # Respiratory Failure: Pt is s/p extubation on [**4-20**]. Her respiratory
   failure was thought to be [**3-6**] CHF versus aspiration PNA. Of note, no
   mention of PNA on recent CXR and pt has had no positive blood cx (no
   sputum cx sent). She does has bilateral pleural effusions noted on
   chest x-ray which appear to be improvong. Respiratory status improved,
   pt sat'ing 100% on RA at this time. Pt with peripheral edema on exam.
   - continue vanc/zosyn x 21 day course (currently day #3)
   - continue ipratropium nebs
   - continue lasix 40 mg IV daily
   - continue to monitor respiratory status
   - stricts I/O's
   - agree with primary team to hold off on tapping pleural effusions at
   this time
   .
   # Abdominal Abscess: S/p drainage. On vanc/zosyn. Recent CT scan
   showing resolution of fluid collections, with only a small amount of
   free fluid in the pelvis. Colocutaneous fistula draining feculant fluid
   on lower abdomen; however, pt's nutritional status to poor to fix this
   at this point.
   - continue vanc/zosyn
   - continue to monitor fever curve
   - continue to monitor abdominal exam
   .
   # Diffuse Edema: Likely related to poor nutritional status, with
   albumin of 1.8.
   - continue tube feeds
   - appreciate nutrition recs
   - continue lasix, as above
   - PM lytes
   .
   # Altered Mental Status: Pt with dementia. Not clear what her baseline
   is, however. Currently, she is somnolent but responds to verbal
   stimuli.
   - Holding aricept for concern of causing bradycardia
   - continue to monitor mental status
   - touch base with family re: baseline mental status
   - reorientation, maintain sleep/wake cycle
   .
   # HTN: Normotensive on exam.
   - conmtinue valsartan 80 mg, simvastatin 20 mg, aspirin 81 mg
   - continue to monitor blood pressure and fluid status
   .
   # DM: On ISS. Continue to monitor blood glucose.
   .
   # Elevated Alk Phos: Improving. ?related to recent intraabdominal
   infection. Continue to trend.
   .
   # Anemia: H/o GIB. Hct has been stable. Continue to trend. continuet
   PPI.
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2153-4-29**] 12:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2153-4-28**] 06:00 PM
   Prophylaxis:
   DVT: pneumoboots and sub Q heparin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out to floor